US06794389B2
cis-N-Amidino-2-[2-(4-chlorostyryl)-6-methoxyquinazolin-4-yl]aminocyclohexylamine Dihydrochloride
A solution of 570 mg of cis-N-[N,N′-bis(tert-butoxycarbonyl)]amidino-2-[2-(4-chlorostyryl)-6-methoxyquinazolin-4-yl]aminocyclohexylamine in 8 mL of methanol and 8 mL of chloroform was combined with 5 mL of a 4N solution of hydrogen chloride in ethyl acetate, and reacted at 50° C. for 48 hours. After concentrating, crystallization are performed with ethyl acetate to obtain 310 mg of the desirable compound as pale yellow crystals.

reactant | cis-N-[N,N′-bis(tert-butoxycarbonyl)]amidino-2-[2-(4-chlorostyryl)-6-methoxyquinazolin-4-yl]aminocyclohexylamine | 570 mg | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)OC)C=CC1=CC=C(C=C1)Cl | C34H43ClN6O5
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 8 mL | CO | CH4O
solvent | chloroform | 8 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | cis-N-Amidino-2-[2-(4-chlorostyryl)-6-methoxyquinazolin-4-yl]aminocyclohexylamine Dihydrochloride | 310 mg | Cl.Cl.C(N)(=N)N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)OC)C=CC1=CC=C(C=C1)Cl | InChI=1S/C24H27ClN6O.2ClH/c1-32-17-11-12-19-18(14-17)23(29-20-4-2-3-5-21(20)30-24(26)27)31-22(28-19)13-8-15-6-9-16(25)10-7-15;;/h6-14,20-21H,2-5H2,1H3,(H4,26,27,30)(H,28,29,31);2*1H/t20-,21+;;/m0../s1
